US05576313
Step 3: Preparation of N-t-butoxycarbonyl-S-trityl-L-Cysteinyl-4-(2-methylbenzyl)isonipecotic acid 2-pyridylmethyl ester
4-(2-methylbenzyl)isonipecotic acid 2-pyridylmethyl ester bis HCl salt was coupled to N-t-butoxycarbonyl-S-trityl-L-Cysteine utilizing the procedure described in Example 1, Step 7 to afford the product as a white foam.

reactant | 4-(2-methylbenzyl)isonipecotic acid 2-pyridylmethyl ester bis HCl salt | Cl.Cl.N1=C(C=CC=C1)COC(C1(CCNCC1)CC1=C(C=CC=C1)C)=O
reactant | N-t-butoxycarbonyl-S-trityl-L-Cysteine | C(C)(C)(C)OC(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C27H29NO4S
product | N-t-butoxycarbonyl-S-trityl-L-Cysteinyl-4-(2-methylbenzyl)isonipecotic acid 2-pyridylmethyl ester | N1=C(C=CC=C1)COC(C1(CCN(CC1)C([C@@H](NC(=O)OC(C)(C)C)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=C(C=CC=C1)C)=O | C47H51N3O5S
